US05574042
A suspension of 3-bromo-8-[3-[N-[4-(3-carboxypropionamido)cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylimidazo[1,2-a]pyridine (110 mg) and anhydrous sodium acetate (16 mg) in acetic anhydride (1.1 ml) was refluxed for 5 hours. After cooling, the solvent was removed in vacuo. The residue was dissolved in dichloromethane (5 ml) and washed with water, saturated sodium bicarbonate twice and brine. After dried over magnesium sulfate, the solvent was removed in vacuo. The residue was purified by preparative thin-layer chromatography (ethyl acetate-methanol) to give 3-bromo-8-[2,6-dichloro-3-[N-[4-(succinimido)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (12 mg) as amorphous.

reactant | 3-bromo-8-[3-[N-[4-(3-carboxypropionamido)cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylimidazo[1,2-a]pyridine | 110 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(C=CC2=CC=C(C=C2)NC(CCC(=O)O)=O)=O)=O)Cl)C | C31H28BrCl2N5O6
reactant | sodium acetate | 16 mg | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 1.1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-bromo-8-[2,6-dichloro-3-[N-[4-(succinimido)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 12 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(C=CC2=CC=C(C=C2)N2C(CCC2=O)=O)=O)=O)Cl)C | C31H26BrCl2N5O5
